US04108993
300 ml of an aqueous solution of 30% formic aldehyde were added to a mixture of 30 g of 4-(3',4'-dichlorophenyl)-3-oxo-5,6-dihydro-1,2,4-oxadiazine, 30 g of anhydrous sodium acetate and 300 ml of dioxane and then the mixture was stirred for 2 hours at 20°-25° C and was acidified. The mixture was extracted with ethyl acetate and the extracts were dried and evaporated to dryness under reduced pressure. The residue was taken up in isopropyl ether and the mixture was vacuum filtered. The recovered solids were dried to obtain 30 g of 2-hydroxymethyl-4-(3',4'-dichlorophenyl)-3-oxo-5,6-dihydro-1,2,4-oxadiazine melting at 134° C.

reactant | formic aldehyde | C=O | CH2O
reactant | 4-(3',4'-dichlorophenyl)-3-oxo-5,6-dihydro-1,2,4-oxadiazine | 30 g | ClC=1C=C(C=CC1Cl)N1C(NOCC1)=O | C9H8Cl2N2O2
reactant | sodium acetate | 30 g | C(C)(=O)[O-].[Na+]
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | 2-hydroxymethyl-4-(3',4'-dichlorophenyl)-3-oxo-5,6-dihydro-1,2,4-oxadiazine | 30 g | OCN1OCCN(C1=O)C1=CC(=C(C=C1)Cl)Cl | C10H10Cl2N2O3
